US07435837B2
To a solution of (±)-3-[2-(benzyloxy)-4-methoxyphenyl]propane-1,2-diol (30.50 g, 0.106 mol) in anhydrous pyridine (600 mL) cooled to 0° C. under a nitrogen atmosphere was added p-toluenesulfonyl chloride (22.18 g, 0.116 mol). The reaction mixture was allowed to stir at 0° C. for 12 h. The reaction mixture was quenched by the addition of water (10 mL). The reaction mixture was diluted with ethyl acetate (750 mL) and the organic layer was washed with aqueous hydrogen chloride (6 N, 4×400 mL), saturated aqueous sodium chloride (300 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 2:8) gave 42.84 g (91%) of (±)-3-[2-(benzyloxy)-4-methoxyphenyl]-2-hydroxypropyl 4-methylbenzenesulfonate as a colorless oil. Rf=0.28 (silica, ethyl acetate:hexanes 2:8); Anal. calcd. for C24H26O6S: C, 65.14; H, 5.92. Found: C, 64.59; H, 5.72.

reactant | (±)-3-[2-(benzyloxy)-4-methoxyphenyl]propane-1,2-diol | 0.106 mol, 30.50 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)CC(CO)O | C17H20O4
reactant | p-toluenesulfonyl chloride | 0.116 mol, 22.18 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 600 mL | N1=CC=CC=C1 | C5H5N
product | (±)-3-[2-(benzyloxy)-4-methoxyphenyl]-2-hydroxypropyl 4-methylbenzenesulfonate | 42.84 g, 91% | CC1=CC=C(C=C1)S(=O)(=O)OCC(CC1=C(C=C(C=C1)OC)OCC1=CC=CC=C1)O | C24H26O6S
